US07531532B2
(4-Benzoylpiperazin-1-yl)acetic acid ethyl ester
1-(Ethoxycarbonylmethyl)piperazine (5.1 g) was dissolved in tetrahydrofuran (300 ml) under a nitrogen atmosphere, and then triethylamine (8.25 ml) and benzoyl chloride (3.44 ml) were added thereto while cooling in an ice water bath, followed by warming to room temperature and stirring for 4 hrs. The reaction mixture was partitioned between ethyl acetate (200 ml) and a saturated aqueous solution of sodium hydrogencarbonate (100 ml). The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate (100 ml), water (100 ml), brine (100 ml) and dried over anhydrous sodium sulfate. The solvent was evaporated to provide the titled compound (8.19 g, quant.) as a colorless oil.

reactant | 1-(Ethoxycarbonylmethyl)piperazine | 5.1 g | C(C)OC(=O)CN1CCNCC1 | C8H16N2O2
reactant | triethylamine | 8.25 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 3.44 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | (4-Benzoylpiperazin-1-yl)acetic acid ethyl ester | 8.19 g | C(C)OC(CN1CCN(CC1)C(C1=CC=CC=C1)=O)=O | C15H20N2O3
